US04940710
A 6 g portion of 1,4-bis(phenylmethyl)-2-piperazinemethanol was dissolved in 90 ml of dichloromethane together with 4.26 ml of triethylamine and then cooled to 0°-5° C. A 2.04 ml portion of methanesulfonyl chloride was added and the mixture was allowed to warm to room temperature over 2 hours. The mixture was washed with ice cold sodium bicarbonate solution, followed twice with ice water, dried, filtered and evaporated. The residue was dissolved in dimethylformamide and added to a solution of 2.07 g of sodium phenol and 1.02 g of 50% sodium hydride in 30 ml of dimethylformamide under argon. This mixture was stirred for 48 hours, water was added and the mixture extracted twice with ether. The extracts were combined, washed with water, dried, filtered and evaporated, giving a gum which was crystallized from methanol with refrigeration, giving 4.1 g of 3-phenoxymethyl-1,4-bis(phenylmethyl)piperazine.

reactant | 1,4-bis(phenylmethyl)-2-piperazinemethanol | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | triethylamine | 4.26 ml | C(C)N(CC)CC | C6H15N
product | 3-phenoxymethyl-1,4-bis(phenylmethyl)piperazine | 4.1 g | O(C1=CC=CC=C1)CC1CN(CCN1CC1=CC=CC=C1)CC1=CC=CC=C1 | C25H28N2O
